US09212154B2
L-Cysteine hydrochloride (8.00 g, 45.6 mmol), pyridoxal hydrochloride (8.80 g, 43.25 mmol), and sodium hydrogen carbonate (7.60 g, 90.5 mmol) were added to a mixed solvent of water (60 ml) and ethanol (120 ml), and the mixture was at stored −20° C. for 2 days. The precipitated solid was collected by filtration, and dried under reduced pressure to give 2-[3-hydroxy-5-(hydroxymethyl)-2-methylpyridin-4-yl]thiazolidine-4-carboxylic acid as a pale-yellow solid (10.73 g).

reactant | L-Cysteine hydrochloride | 45.6 mmol, 8.00 g | Cl.N[C@@H](CS)C(=O)O
reactant | pyridoxal hydrochloride | 43.25 mmol, 8.80 g | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | sodium hydrogen carbonate | 90.5 mmol, 7.60 g | C(O)([O-])=O.[Na+]
reactant | water | 60 ml | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-[3-hydroxy-5-(hydroxymethyl)-2-methylpyridin-4-yl]thiazolidine-4-carboxylic acid | 10.73 g | OC=1C(=NC=C(C1C1SCC(N1)C(=O)O)CO)C | C11H14N2O4S
